US07884244B2
3-(2-Fluoro-phenyl)-propionitrile:
To a solution of 2-(2-fluoro-phenyl)-ethanol (10.00 g, 71.50 mmol) in CH2Cl2 at 0° C. was added Et3N (20.00 mL, 0.14 mol) followed by MsCl (19.00 mL, 0.25 mol). The resulting mixture was stirred for 1 hour, then washed with H2O (3×100 mL) and brine (1×150 mL), dried over MgSO4 and concentrated. The residue was dissolved in DMF and KCN (9.30 g, 0.14 mol) was added. The resulting mixture was stirred at 75° C. for 14 hours. After cooling to room temperature, the reaction mixture was quenched into water and extracted with Et2O (3×300 mL). The combined organic extracts were washed with H2O (2×200 mL), brine (1×200 mL), dried over MgSO4 and concentrated to give the title compound.

reactant | 2-(2-fluoro-phenyl)-ethanol | 71.50 mmol, 10.00 g | FC1=C(C=CC=C1)CCO | C8H9FO
reactant | Et3N | 0.14 mol, 20.00 mL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.25 mol, 19.00 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | KCN | 0.14 mol, 9.30 g | [C-]#N.[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(2-Fluoro-phenyl)-propionitrile | FC1=C(C=CC=C1)CCC#N | C9H8FN
